US04208336
A solution of 3-(2-bromo-5-chloro-3-benzofuranyl)phenylacetic acid in chloroform with 1.5 equivalents of cyclonexene is treated with 1.5 equivalents of dinitrogen tetroxide and stirred for about 20 hours at room temperature. The mixture is washed with water, extracted with saturated sodium bicarbonate solution, then the aqueous extracts are acidified. The mixture is extracted with dichloromethane, which is dried and concentrated. The residue is recrystallized from a mixture of benzene and hexane to provide 3-(5-chloro-2-nitro-3-benzofuranyl)phenylacetic acid.

reactant | 3-(2-bromo-5-chloro-3-benzofuranyl)phenylacetic acid | BrC=1OC2=C(C1C=1C=C(C=CC1)CC(=O)O)C=C(C=C2)Cl | C16H10BrClO3
reactant | dinitrogen tetroxide | 1.5 equivalents | [N+](=O)([N+](=O)[O-])[O-] | N2O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-chloro-2-nitro-3-benzofuranyl)phenylacetic acid | ClC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C=2C=C(C=CC2)CC(=O)O)C1 | C16H10ClNO5
